US06432957B1
Synthesis of N-(2-hydroxyethyl)-N-[[2-(3,4,5-trimethoxy-phenyl)pyridin-4-yl]methyl]amine:
N-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-glycine methyl ester (6.54 g) was dissolved in THF (80 mL), and to the solution lithium aluminum hydride (717 mg) was gradually added portionwise at 0° C. under an argon atmosphere, and the mixture was stirred for 4 hours. A small amount of water was added to the reaction mixture. When bubbling ended, sodium sulfate was excessively added. The reaction mixture was filtered through celite, and the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (chloroform:methanol=20:1) to obtain the title compound.

reactant | N-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-glycine methyl ester | 6.54 g | COC(CNCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)=O | C18H22N2O5
reactant | lithium aluminum hydride | 717 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | N-(2-hydroxyethyl)-N-[[2-(3,4,5-trimethoxy-phenyl)pyridin-4-yl]methyl]amine | OCCNCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C17H22N2O4
